US05057143
Manufacture of 2-chloro-6-(4,6-dimethoxytriazin-2-yloxy)-benzoic acid
At 25° C., 20.2 g of potassium tert-butylate is added in portions to 15.5 g of 2-chloro-6-hydroxybenzoic acid in 50 ml of dimethylformamide. Subsequently, 15.7 g of 2-chloro-4,6-dimethoxytriazine is added. The mixture is stirred for 12 hours at 25° C. and poured into cold water, and the resulting mixture is acidified with hydrochloric acid. Extraction is then carried out with ethyl acetate, and the extract is dried over sodium sulfate and the solvent is removed under reduced pressure. The residue is stirred with a small amount of diethyl ether, followed by filtration. The residue is dried under reduced pressure (m.p. 128°-131° C.).

reactant | potassium tert-butylate | 20.2 g | CC(C)(C)[O-].[K+]
reactant | 2-chloro-6-hydroxybenzoic acid | 15.5 g | ClC1=C(C(=O)O)C(=CC=C1)O | C7H5ClO3
reactant | 2-chloro-4,6-dimethoxytriazine | 15.7 g | ClN1NC(=CC(=N1)OC)OC | C5H8ClN3O2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-chloro-6-(4,6-dimethoxytriazin-2-yloxy)-benzoic acid | ClC1=C(C(=O)O)C(=CC=C1)ON1NC(=CC(=N1)OC)OC | C12H12ClN3O5
